US08309581B2
b) 4-[2-(5,6-Difluoro-1H-benzoimidazol-2-yl)-benzyloxy]-3-fluoro-benzonitrile
To a mixture of 4,5-difluoro-benzene-1,2-diamine (501 mg, 3.47 mmol; CAS Reg. No. 76179-40-3) and triethylamine (0.64 ml, 4.74 mmol) in dichloromethane (10 ml) at 0° C. was added a solution of 2-(4-cyano-2-fluoro-phenoxymethyl)-benzoyl chloride (1.06 g, 3.65 mmol) in dichloromethane (15 ml) drop wise over 10 minutes. After stirring for 3 h at 0° C. the volatiles were removed in vacuo to give a yellow solid. The solid was dissolved in glacial acetic acid (15 ml), and sodium acetate was added to the solution, and the mixture was refluxed for 13 h. The reaction mixture was cooled to 25° C., evaporated in vacuo, and partitioned between dichloromethane and water. The biphasic mixture was cooled in an ice bath, and neutralized with solid potassium carbonate while maintaining vigorous stirring. The phases were separated, and the extraction was completed with additional portions of dichloromethane. The combined organic extracts were dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude product was purified by flash chromatography over silica gel (15% ethyl acetate/n-hexane) to yield the desired compound as a brown solid (16%). MS (Turbo Spray): m/z=380.4 (M+H).

reactant | 4,5-difluoro-benzene-1,2-diamine | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | triethylamine | 4.74 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-cyano-2-fluoro-phenoxymethyl)-benzoyl chloride | 3.65 mmol, 1.06 g | C(#N)C1=CC(=C(OCC2=C(C(=O)Cl)C=CC=C2)C=C1)F | C15H9ClFNO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-[2-(5,6-Difluoro-1H-benzoimidazol-2-yl)-benzyloxy]-3-fluoro-benzonitrile | 16% | FC1=CC2=C(NC(=N2)C2=C(COC3=C(C=C(C#N)C=C3)F)C=CC=C2)C=C1F | C21H12F3N3O
